US09079853B2
3-(3,5-dimethoxybenzyl)-1-ethyl-5-methyl-2-oxoindolin-3-yl benzoate
This compound was made in an analogous fashion to 1-ethyl-5-methyl-2-oxo-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate using 1-ethyl-5-methyl-2-oxoindolin-3-yl benzoate and 3,5-dimethoxy benzyl bromide (purchased from Fisher Scientific). 1H NMR δ 8.08 (d, 2H), 7.60 (t, 1H), 7.57 (t, 2H), 7.10 (d, 1H), 6.90 (s, 1H), 6.65 (d, 1H), 6.33 (s, 1H), 6.18 (s, 2H), 3.79 (m, 1H), 3.62 (s, 6H), 3.59 (m, 1H), 3.52 (d, 1H), 3.22 (d, 1H), 2.28 (s, 3H), 1.07 (t, 3H).

reactant | 1-ethyl-5-methyl-2-oxo-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=C(C=C12)C)CC)=O)CC1=CC(=C(C(=C1)OC)OC)OC | C28H29NO6
reactant | 1-ethyl-5-methyl-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)C)CC)=O | C18H17NO3
reactant | 3,5-dimethoxy benzyl bromide | COC=1C=C(CBr)C=C(C1)OC | C9H11BrO2
product | 3-(3,5-dimethoxybenzyl)-1-ethyl-5-methyl-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=C(C=C12)C)CC)=O)CC1=CC(=CC(=C1)OC)OC | C27H27NO5
